US07291631B2
Using General Procedure A: Reaction of (5-Aminomethyl-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-methanol, methylbromoacetate and DIPEA in CH2Cl2 gave (4-{[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzylamino)-acetic acid methyl ester as a white foamy solid. 1H NMR (CDCl3) δ 1.60 (m, 1H), 1.80 (br s, 1H), 1.98 (m, 1H), 2.19 (m, 2H), 2.22 (s 3H), 2.25 (s, 3H), 2.64 (m, 1H), 2.79 (m, 1H), 3.40 (s, 2H), 3.63-3.77 (m, 8H), 3.91 (t, 1H, J=7.5 Hz), 4.15 (m, 2H), 4.36 (d, 1H, J=12.0 Hz), 7.01 (dd, 1H, J=7.5, 3.0 Hz), 7.16 (d, 1H, J=7.5 Hz), 7.21-7.31 (m, 4H), 8.16 (s, 1H), 8.37 (d, 1H, J=3.0 Hz). 3C NMR (CDCl3) δ 18.3, 18.6, 21.1, 22.1, 29.8, 50.4, 52.1, 53.3, 54.4, 54.6, 57.9, 63.0, 121.9, 127.4, 131.4, 131.8, 132.2, 133.8, 134.9, 136.3, 136.9, 139.3, 139.7, 142.6, 146.5, 146.9, 153.7, 157.3, 173.2. HPLC: 98%. ES-MS m/z 489 [M+H]+, 511 [M+Na]+. Anal. Calcd. for C29H36N4O3.0.1 CH2Cl2: C, 70.31; H, 7.34; N, 11.27. Found: C, 70.54; H, 7.48; N, 11.17.

reactant | (5-Aminomethyl-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-phenyl)-methanol | NCC=1C=CC(=C(C1)CO)CN(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C | C26H32N4O
reactant | methylbromoacetate | COC(CBr)=O | C3H5BrO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-{[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzylamino)-acetic acid methyl ester | COC(CNCC1=CC(=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C)CO)=O | C29H36N4O3
